US07557114B2
(b) 2-Chloro-6,7-dihydro-5H-pyrrolo[3,4-b]pyridine
Prepared in analogy to Example A2(c) from 2-chloro-6-trityl-6,7-dihydro-5H-pyrrolo[3,4-b]pyridine and trifluoroacetic acid. Light brown solid. MS (m/e): 154.9 ([M+, 100%).

reactant | 2-chloro-6-trityl-6,7-dihydro-5H-pyrrolo[3,4-b]pyridine | ClC1=CC=C2C(=N1)CN(C2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C26H21ClN2
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | 2-Chloro-6,7-dihydro-5H-pyrrolo[3,4-b]pyridine | ClC1=CC=C2C(=N1)CNC2 | C7H7ClN2
